US09029368B2
L.i. Rac-(3R*,4R*)-tert-butyl 4-(((2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)amino)methyl)-3-hydroxypiperidine-1-carboxylate
A mixture of rac-(3R*,4R*)-tert-butyl 3-hydroxy-4-((tosyloxy)methyl)piperidine-1-carboxylate (prepared as described in Tetrahedron (2008), 64, 2456-2464, 0.26 g, 0.67 mmol) and tert-butyl (2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)carbamate (prepared as described in WO 2009/104159, 0.17 g, 0.67 mmol, 1 eq.) was dissolved in DMF (2.5 mL). NaH (60% dispersion in oil, 0.04 g, 0.88 mmol, 1.3 eq.) was added and the mixture was vigorously stirred at rt for 2 h. More NaH (0.03 g, 0.67 mmol, 1 eq.) was added. After two more hours, sat. aq. NaHCO3 (5 mL) was added and the mixture was extracted with EA (3×10 mL). The combined org. phases were dried over MgSO4 and concentrated under reduced pressure. The residue was purified by CC (DCM/MeOH 19:1) to afford the title compound as a white solid (0.15 g, 62% yield).

reactant | rac-(3R*,4R*)-tert-butyl 3-hydroxy-4-((tosyloxy)methyl)piperidine-1-carboxylate | 0.67 mmol, 0.26 g | OC1CN(CCC1COS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C18H27NO6S
reactant | tert-butyl (2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)carbamate | 0.67 mmol, 0.17 g, 1 eq. | O1CCOC=2C=NC(=CC21)NC(OC(C)(C)C)=O | C12H16N2O4
reactant | NaH | 0.88 mmol, 0.04 g, 1.3 eq. | [H-].[Na+]
reactant | NaH | 0.67 mmol, 0.03 g, 1 eq. | [H-].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | Rac-(3R*,4R*)-tert-butyl 4-(((2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)amino)methyl)-3-hydroxypiperidine-1-carboxylate | 0.15 g, 62% yield | O1CCOC=2C=NC(=CC21)NCC2C(CN(CC2)C(=O)OC(C)(C)C)O | C18H27N3O5
